US09388195B2
A) Production of 6-bromo-2-(1,3-thiazol-2-yl)thieno[3,2-d]pyrimidin-4 (3H)-one
To a mixture of 3-amino-5-bromothiophene-2-carboxamide (200 mg) produced in Example 1, step D, triethylamine (0.19 mL) and tetrahydrofuran (4.0 mL) was added 1,3-thiazole-2-carbonyl chloride (0.22 g) at 0° C., and the mixture was stirred at room temperature for 2 hr. Water was poured into the reaction system, and the precipitate was collected by filtration to give N-(5-bromo-2-carbamoylthiophen-3-yl)-1,3-thiazole-2-carboxamide (290 mg) as a pale-yellow solid. To N-(5-bromo-2-carbamoylthiophen-3-yl)-1,3-thiazole-2-carboxamide produced above were added 2M aqueous sodium hydroxide solution (1.75 mL) and 1,2-dimethoxyethane (4.0 mL), and the mixture was stirred at 100° C. for 18 hr. The reaction system was neutralized with 1M hydrochloric acid at 0° C. The precipitate was collected by filtration to give the title compound (236 mg) as a white solid.

reactant | N-(5-bromo-2-carbamoylthiophen-3-yl)-1,3-thiazole-2-carboxamide | BrC1=CC(=C(S1)C(N)=O)NC(=O)C=1SC=CN1 | C9H6BrN3O2S2
reactant | sodium hydroxide | 2M, 1.75 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | 1,2-dimethoxyethane | 4.0 mL | COCCOC | C4H10O2
product | 6-bromo-2-(1,3-thiazol-2-yl)thieno[3,2-d]pyrimidin-4 (3H)-one | 236 mg | BrC1=CC=2N=C(NC(C2S1)=O)C=1SC=CN1 | C9H4BrN3OS2
